US04182762
1.3 pts. by wt. of 1-amino-2,3-dioxo-piperazine, 1.3 pts. by wt. of benzaldehyde and 7 pts. by vol. of glacial acetic acid are warmed to 90° for 90 minutes and then left at 5° for 30 minutes. The precipitate is filtered off, washed first with 3 pts. by vol. of glacial acetic acid and then with three times 10 pts. by vol. of ethyl acetate and dried over P2O5. 1.75 pts. by wt. (81.8% ) of 1-benzylideneamino-2,3-dioxo-piperazine of melting point 236°-240° C. are obtained.

reactant | 1-amino-2,3-dioxo-piperazine | NN1C(C(NCC1)=O)=O | C4H7N3O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-benzylideneamino-2,3-dioxo-piperazine | 81.8% | C(C1=CC=CC=C1)=NN1C(C(NCC1)=O)=O | C11H11N3O2
